US07842696B2
LiOH (95.97 mg, 2.2 mmol) was added to a stirred solution of 4-ethynyl-benzoic acid methyl ester (305 mg, 1.9 mmol) in MeOH:H2O (1:1, 6 mL), and the resulting mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added, acidified it with conc.HCl and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 226 mg (81.9% yield) of 4-ethynyl-benzoic acid.

reactant | LiOH | 2.2 mmol, 95.97 mg | [Li+].[OH-]
reactant | 4-ethynyl-benzoic acid methyl ester | 1.9 mmol, 305 mg | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
reactant | water | O | H2O
solvent | MeOH H2O | 6 mL | CO.O
product | 4-ethynyl-benzoic acid | 226 mg, 81.9% yield | C(#C)C1=CC=C(C(=O)O)C=C1 | C9H6O2
